data/mechanisms/records/IMS8-EQ8.74b.json
{"mechanism_id": "IMS8-EQ8.74b", "species": [{"species_id": "dimethylcyclobutanol_molecular_ion", "mapped_smiles": "[CH3:3][C:1]1([OH+:2])[CH2:4][CH2:5][CH:6]1[CH3:7]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "distonic_radical_ion", "mapped_smiles": "[CH3:3][C:1](=[OH+:2])[CH2:4][CH2:5][CH:6][CH3:7]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["dimethylcyclobutanol_molecular_ion"]}, {"state_id": "state_products", "species_ids": ["distonic_radical_ion"]}], "steps": [{"step_id": "step_ring_alpha_cleavage", "from_state": "state_precursor", "to_state": "state_products", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [2]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 6]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 6]}, "target": {"type": "atom", "atom_maps": [6]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_ring_8_74b", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_ring_alpha_cleavage", "support_type": "textbook_proposed", "locator": {"page": 192, "equation": "8.74", "figure": null, "panel": null, "section": "8.10 Hydrogen rearrangements, subsection 'Two bonds cleaved'"}, "confidence": 0.85, "curator_note": "RIGHT-HAND half of Equation 8.74. DIRECTION: the reaction arrow between the middle and the right structure points LEFTWARDS, so the cyclic species is the reactant and the middle distonic ion is the product; the equation shows two different precursors converging on that one ion (the acyclic ketone branch is recorded separately as IMS8-EQ8.74a). SUBSTRATE, read off the drawing: a cyclobutane square with a methyl on the upper-left ring carbon, and on the upper-right ring carbon both a methyl (the plain line running to the right) and an 'HO' group carrying a printed '+.' above it -- i.e. the oxygen-ionized molecular ion of 1,2-dimethylcyclobutan-1-ol, C6H12O+., the same elemental composition and the same m/z 100.0883 as the hexan-2-one ion on the left. Localization follows convention B: the charge and the odd electron are put on the hydroxyl oxygen exactly where the book prints them, so [OH+:2] carries two bonds and one unpaired electron. ARROWS: Book draws 2 arc(s), both single-barbed fishhooks that converge on the C(1)-O(2) bond -- moves <1,2> are drawn: move <1> starts at the '+.' on the oxygen, loops right and down, and its barb points back at the C-O bond; move <2> starts on the ring C(1)-C(6) bond (the top edge of the square, on the left of the carbinol vertex) and its barb sweeps up to the same C-O bond. Move <3> is an implicit homolysis hook required for electron balance (the second electron of the cleaved C(1)-C(6) ring bond dropping onto C(6); not drawn on the page, though the product structure in the middle is drawn with its radical dot already on that carbon). Encoded together they give exactly the printed product: the ring bond between the carbinol carbon and the methyl-bearing ring carbon is cleaved, C(1)=O(2) becomes a double bond (the drawn 'HO' with a bare '+'), and the odd electron ends up on C(6) -- ring-opening alpha cleavage at an n-ionized oxygen, the same first-step 'separate the radical and the charge site' logic the paragraph above ascribes to ring cleavages (Equations 8.48-8.50, 8.53-8.54). CURATOR CONTEXT (not a book statement about this drawing): the cyclobutanol is the ring-closed counterpart of the Norrish-Type-II 1,4-species whose photochemical parallel is discussed in the paragraph at the top of the page. MS CONTEXT: the page names no experiment for this structure -- it is drawn purely as a second, cyclic precursor of the same distonic ion. Since the drawn reacting species is a whole-molecule odd-electron radical cation, ms_context records the convention-G default for such a precursor (70 eV EI, adduct [M]+., precursor_mz = the C6H12O+. molecular-ion m/z); no ionization method, electron energy or activation is printed on p.192. NO PRINTED NUMBERS: p.192 prints no m/z and no abundance anywhere in this scheme, so the product is detected=false, peak status 'inferred', no relative_intensity; m/z 100.0883 is the curator's computed monoisotopic value for C6H12O+. and is not an independently observable peak (the distonic ion is isobaric with its own precursor)."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 100.0883, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_distonic_oe_ion_from_ring", "species_id": "distonic_radical_ion", "step_id": "step_ring_alpha_cleavage", "observed_mz": 100.0883, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.7}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-27T00:00:00Z", "modified_at": "2026-07-27T00:00:00Z"}}
